US06329393B1
Step B. 3-[4-(4-Fluorophenyl)piperidin-1-yl]propylphthalimide
A mixture of 4-(4-fluorophenyl)piperidine hydrochloride (5.08 g, 23.2 mmol), 3-bromopropylphthalimide (6.22 g, 23.2 mmol), and potassium carbonate (15 g) in DMF (100 mL) was stirred and heated at 95-100° C. for 12 h. About 80% of the solvent was evaporated at reduced pressure, the residue was diluted with ethyl acetate (200 mL) and washed with brine (3×100 mL) and dried (Na2SO4). Solvent was evaporated and the residue was purified by column chromatography on silica gel using 1/1 hexane-ethyl acetate to 100% ethyl acetate as eluent. This product was crystallized from isopropanol to give a white crystalline solid; m.p. 80-81° C. This material was used in the next step. Concentration of the mother liquor and cooling gave the second crop.

reactant | 4-(4-fluorophenyl)piperidine hydrochloride | 23.2 mmol, 5.08 g | Cl.FC1=CC=C(C=C1)C1CCNCC1
reactant | 3-bromopropylphthalimide | 23.2 mmol, 6.22 g | BrCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C11H10BrNO2
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-[4-(4-Fluorophenyl)piperidin-1-yl]propylphthalimide | FC1=CC=C(C=C1)C1CCN(CC1)CCCC1=C2C(C(=O)NC2=O)=CC=C1 | C22H23FN2O2
